US08748426B2
Methyl 2-(5-bromo-1,3-dioxoisoindolin-2-yl)-3-methylbutanoate
5-bromoisobenzofuran-1,3-dione (3 g, 13.21 mmol), L-valine methyl ester (3.31 g, 19.82 mmol) and triethyl amine (2.75 mL, 19.82 mmol) were taken in acetonitrile and heated at 80° C. for 24 h. The solvent was removed by distillation and the crude material obtained was purified using column chromatography (silicagel, 20% dichloromethane in petroleum ether) to afford the title compound.

reactant | 5-bromoisobenzofuran-1,3-dione | 13.21 mmol, 3 g | BrC=1C=C2C(OC(C2=CC1)=O)=O | C8H3BrO3
reactant | L-valine methyl ester | 19.82 mmol, 3.31 g | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | triethyl amine | 19.82 mmol, 2.75 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 2-(5-bromo-1,3-dioxoisoindolin-2-yl)-3-methylbutanoate | BrC=1C=C2C(N(C(C2=CC1)=O)C(C(=O)OC)C(C)C)=O | C14H14BrNO4
